US06121495
3,3',4,4'-Tetra(phenylethynyl)biphenyl
Analysis of the crude reaction mixture by LC at this point indicated a significant amount of unreacted starting material and products of intermediate conversion. An additional 10 g of phenylacetylene and 1 g of catalyst were added and the reaction mixture was heated at 85° C. for one hour. At this time, the LC indicated conversion was complete. The cooled reaction mixture was diluted with 500 mL of CH2Cl2 and washed with three 1-L portions of 10 percent HCl. The CH2Cl2 solution was isolated and evaporated to provide a crude solid product which was suspended in hexane. The solid was collected by filtration and purified by washing excessively with hot CCL4. This wash removeddiscoloration and many of the by-products, but it was not sufficiently effective at removing the residual Pd (II) catalyst from the monomer. The monomer was further purified by chromatography over neutral alumina using tetrahydrofuran as an eluent. The resulting monomer was isolated (32.0 g, 58 percent yield) as a light yellow solid with an m.p. of 172° C. to 174° C. with properties:

reactant | phenylacetylene | 10 g | C1(=CC=CC=C1)C#C | C8H6
reactant | hexane | CCCCCC | C6H14
solvent | CH2Cl2 | 500 mL | C(Cl)Cl | CH2Cl2
product | 3,3',4,4'-Tetra(phenylethynyl)biphenyl | C1(=CC=CC=C1)C#CC=1C=C(C=CC1C#CC1=CC=CC=C1)C1=CC(=C(C=C1)C#CC1=CC=CC=C1)C#CC1=CC=CC=C1 | C44H26
